US07365095B2
((2R)-7-Chloro-8-o-tolylchroman-2-yl)methanamine hydrochloride
To a solution of (2R)-2-(azidomethyl)-7-chloro-8-o-tolylchroman (0.5 g, 1.6 mmol) in THF (15 mL) and water (0.5 mL) was added polymer-bound triphenylphosphine (3 mmol/g, 0.8 g, 2.4 mmol) and the resulting mixture was stirred at room temperature overnight. The mixture was filtered through a pad of Celite and concentrated under reduced pressure. Purification by ISCO using a solvent gradient of 0 to 10% methanol in methylene chloride provided 0.15 g of the title compound as a colorless oil. The oil was dissolved in ethyl acetate (5 mL) and to which hydrogen chloride (1.0 M in ethyl ether, 1.5 mL, 1.5 mmol) was added, solvent was removed and the solid was washed with ethyl ether (3×5 mL) to provide 0.13 g of ((2R)-7-chloro-8-o-tolylchroman-2-yl)methanamine hydrochloride as a white solid salt, mp 155° C.; MS (APPI) m/z 288 ([M+H]+); [α]D25=−55° (c=1% SOLN, MeOH).

reactant | (2R)-2-(azidomethyl)-7-chloro-8-o-tolylchroman | 1.6 mmol, 0.5 g | N(=[N+]=[N-])C[C@@H]1OC2=C(C(=CC=C2CC1)Cl)C1=C(C=CC=C1)C | C17H16ClN3O
reactant | triphenylphosphine | 2.4 mmol, 0.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | ((2R)-7-Chloro-8-o-tolylchroman-2-yl)methanamine hydrochloride | 0.15 g | Cl.ClC1=CC=C2CC[C@@H](OC2=C1C1=C(C=CC=C1)C)CN | InChI=1S/C17H18ClNO.ClH/c1-11-4-2-3-5-14(11)16-15(18)9-7-12-6-8-13(10-19)20-17(12)16;/h2-5,7,9,13H,6,8,10,19H2,1H3;1H/t13-;/m1./s1
